US04638075
N-(5-Amino-1,2,4-triazol-3-yl)-2-nitrobenzenesulfonamide
A suspension of 29.4 g (98.0 mmol) of N'-Cyano-N-(2-nitrophenylsulfonyl)-S-methylisothiourea in 100 ml of acetonitrile was treated with 6.2 ml (6.3 g, 0.20 mol) of anhydrous hydrazine. A mild exothermic reaction occurred as the reaction mixture became homogeneous. After stirring for 9 days the precipitated solid was collected by filtration and dried to afford 22.9 g of yellow solid. The crude product was recrystallized from HOAc to yield a total of 15.9 g (57 percent) of the desired product as a pale yellow solid, mp 255°-256° C. IR and 1H NMR spectra were consistent with the assigned structure.

reactant | N'-Cyano-N-(2-nitrophenylsulfonyl)-S-methylisothiourea | 98.0 mmol, 29.4 g | C(#N)N=C(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])SC | C9H8N4O4S2
reactant | hydrazine | 0.20 mol, 6.2 ml, 6.3 g | NN | H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-(5-Amino-1,2,4-triazol-3-yl)-2-nitrobenzenesulfonamide | 22.9 g | NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H8N6O4S
